* source 14_84
V_V1         N00123 0 DC 0Vdc AC 1Vac 0
R_R1         N00123 N00130  4k TC=0,0 
C_C1         N00130 N00134  1u  TC=0,0 
R_R2         0 N00134  1k TC=0,0 
